5
R0102 1 2 1.9
R0304 3 4 1.9
L0300 3 0 1
C0200 2 0 0.31 IC=0.1
C0100 1 0 1 IC=0.1
C0500 5 0 1
C0400 4 0 0.31 IC=0.1
C0300 3 0 1 IC=0.1
N0200 2 0 -2 1.1 -1 0.7 1 -0.7 2 -1.1
*H1 6 0 7 0 1
N0400 4 0 -2 1.1 -1 0.7 1 -0.7 2 -1.1
G0001 0 1 5 0 1
G0500 5 0 1 0 1
.TRAN 200 100E-3 ADMO3 1 UIC
